US04482561
11.3 g of Chloroacetylchloride were added to a solution of 11.4 g of N-methyl-3-piperidinol in 20 ml of dimethylformamide, at 20° to 25° C. The reaction product, which formed immediately, was allowed to stand at this temperature for 24 hours. It was then collected by filtration and recrystallized from isopropanol to provide 12.4 g of N-methyl-3-piperidyl chloroacetate hydrochloride. (II, R=CH3, R1 =R2 =R3 =H, X=Cl), m.p. 168° C.

reactant | Chloroacetylchloride | 11.3 g | ClCC(=O)Cl | C2H2Cl2O
reactant | N-methyl-3-piperidinol | 11.4 g | CN1CC(CCC1)O | C6H13NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-methyl-3-piperidyl chloroacetate hydrochloride | 12.4 g | Cl.ClCC(=O)OC1CN(CCC1)C | InChI=1S/C8H14ClNO2.ClH/c1-10-4-2-3-7(6-10)12-8(11)5-9;/h7H,2-6H2,1H3;1H
